US05547967
3-{3-[N-(2-(3,4-Dimethoxyphenyl)-ethyl)-N-methylamino]-propyloxy)-5-phenyl-isoxazole.
3.5 g of 3-hydroxy-5-phenyl-isoxazole were dissolved in 100 ml of dimethylformamide. The solution was reacted with 3 g of finely powdered potassium carbonate and the reaction mixture was heated for 15 minutes at 100° C. in a nitrogen atmosphere. Then 5.8 g of 3-[N-(2-(3,4-dimethoxyphenyl)-ethyl)-N-methylamino]-propyl chloride were added batchwise. The reaction mixture was stirred for 4 hours at 100° C., after which the salts that formed were filtered off, the filtrate was concentrated to dryness, and the residue dissolved in methyl-tert-butyl ether. The solution was then washed with aqueous sodium carbonate solution, dried with magnesium sulfate, and concentrated to dryness. The remaining crude oily title compound that was left as a residue was purified by flash chromatography using ethyl acetate as the eluent. 4.75 g of the title compound were obtained.

reactant | 3-hydroxy-5-phenyl-isoxazole | 3.5 g | OC1=NOC(=C1)C1=CC=CC=C1 | C9H7NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-[N-(2-(3,4-dimethoxyphenyl)-ethyl)-N-methylamino]-propyl chloride | 5.8 g | COC=1C=C(C=CC1OC)CCN(C)CCCCl | C14H22ClNO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-{3-[N-(2-(3,4-Dimethoxyphenyl)-ethyl)-N-methylamino]-propyloxy)-5-phenyl-isoxazole | 4.75 g | COC=1C=C(C=CC1OC)CCN(C)CCCOC1=NOC(=C1)C1=CC=CC=C1 | C23H28N2O4
